US04408077
5-Methyl-1-(trifluoromethyl)-2-naphthalenol (VI)
Thionyl chloride (0.33 mL, 4.52 mmol) was added dropwise at about 5° C. to a stirred solution of 3,4-dihydro-1-hydroxy-5-methyl-1-(trifluoromethyl)-2(1H)-naphthalenone (1.04 g, 4.26 mmol) and 4-(dimethylamino)pyridine (3.5 mg) in pyridine (0.73 mL) under dry nitrogen. The reaction mixture was stirred and allowed to warm slowly to 25° C. (about 45 min). The reaction was judged to be complete by tlc using silica gel thin layer plates and 20% (v/v) ethyl acetate in hexane as the mobile phase. The reaction mixture was poured onto ice and extracted with diethyl ether. The ether extract was washed with water and a saturated solution of NaHCO3 in water, dried (MgSO4) and concentrated under reduced pressure to give the title compound (961 mg, 100% yield). A small sample, purified by sublimation (30°-34° C., 0.05 mm), had mp 83°-84° C.; nmr (CDCl3) δ 2.65 (s, 3H), 7.1 (d, J=9 Hz, 1H), 7.25 (m, 1H), 7.35 (q, J=8 Hz, 1H), 7.85 (m, 1H), 8.05 (d, J=9 Hz, 1H); uvλmax (MeOH) 335 nm (ε2,770), 322 (2,420), 293 (4,050), 281 (4,680), 222 (46,400); Anal Calcd for C12H9F3O: C, 63.72% H, 4.01%; Found: C, 63.47% H, 3.96%.

reactant | Thionyl chloride | 4.52 mmol, 0.33 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-dihydro-1-hydroxy-5-methyl-1-(trifluoromethyl)-2(1H)-naphthalenone | 4.26 mmol, 1.04 g | OC1(C(CCC2=C(C=CC=C12)C)=O)C(F)(F)F | C12H11F3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-(dimethylamino)pyridine | 3.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 0.73 mL | N1=CC=CC=C1 | C5H5N
solvent | hexane | CCCCCC | C6H14
product | 5-Methyl-1-(trifluoromethyl)-2-naphthalenol | 961 mg, 100% yield | CC1=C2C=CC(=C(C2=CC=C1)C(F)(F)F)O | C12H9F3O
